US06759404B2
(a) Methyl 1-[N-(3-methylbutyl)carbamoyl]cyclopentanecarboxylate
To 1-(methoxycarbonyl)cyclopentanecarboxylic acid (630 mg, 3.7 mmol) in CH2Cl2/DMF (5:1, 37 mL) at 0° C. was added HOBT (730 mg, 4.8 mmol) and EDC (920 mg, 4.8 mmol). The mixture was stirred for 10 min then 3-methylbutylamine (640 mg, 7.4 mmol) was added and stirring was continued for 1 h. The solution was poured into water and the layers separated. The aqueous layer was extracted with methylene chloride and the combined extracts were washed with water, 1N HCl, sat'd NaHCO3, dried over magnesium sulfate, and concentrated to a glassy solid (800 mg, 90%). MS [M+H]+243.

reactant | 1-(methoxycarbonyl)cyclopentanecarboxylic acid | 3.7 mmol, 630 mg | COC(=O)C1(CCCC1)C(=O)O | C8H12O4
reactant | HOBT | 4.8 mmol, 730 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 4.8 mmol, 920 mg
reactant | 3-methylbutylamine | 7.4 mmol, 640 mg | CC(CCN)C | C5H13N
solvent | CH2Cl2 DMF | 37 mL | C(Cl)Cl.CN(C)C=O
solvent | water | O | H2O
product | Methyl 1-[N-(3-methylbutyl)carbamoyl]cyclopentanecarboxylate | CC(CCNC(=O)C1(CCCC1)C(=O)OC)C | C13H23NO3
